US08685969B2
7. Methyl-4-carbamoyl-1-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-5H-pyrido[4,3-b]indole-7-carboxylate
A stirred mixture of methyl 4-cyano-1-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-5H-pyrido[4,3-b]indole-7-carboxylate (0.192 g, 0.395 mmol) and 90% aqueous Sulfuric acid (2.000 ml, 36.8 mmol) was heated at 60° C. for 15-30 minutes. HLC-MS showed complete conversion to the desired product plus the corresponding carboxylic acid. The reaction mixture was cooled to 0° C. and neutralized to approx. pH=5-6 with 50% NaOH solution then stirred overnight. The reaction mixture was filtered and the residue dried overnight under vacuum to give methyl-4-carbamoyl-1-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-5H-pyrido[4,3-b]indole-7-carboxylate a tan/brown solid [0.111 g, 0.220 mmol, 56% yield]. The product had an HPLC Retention Time=2.798 minutes[mixture of isomers] [4 min grad, 10% MeOH/water to 90% MeOH/water, 0.1% TFA, YMC Comb screen ODS-A, 4.6×50 mm, 220 nM]; LC/MS+1 504.4

reactant | methyl 4-cyano-1-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-5H-pyrido[4,3-b]indole-7-carboxylate | 0.395 mmol, 0.192 g | C(#N)C1=CN=C(C2=C1NC=1C=C(C=CC21)C(=O)OC)C2=C(C(=CC=C2)N2C=NC1=CC=CC=C1C2=O)C | C29H19N5O3
reactant | Sulfuric acid | 36.8 mmol, 2.000 ml | S(O)(O)(=O)=O | H2O4S
product | Methyl-4-carbamoyl-1-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-5H-pyrido[4,3-b]indole-7-carboxylate | COC(=O)C=1C=CC=2C3=C(NC2C1)C(=CN=C3C3=C(C(=CC=C3)N3C=NC1=CC=CC=C1C3=O)C)C(N)=O | C29H21N5O4
